US04894386
A mixture of methyl 4-[5-(1-hydroxyallyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate (1.57 g, prepared as described in Example 87, part a), N,N-dimethylformamide di-tert-butylacetal (1.63 g, redistilled) in dry xylene (15 ml), under an atmosphere of nitrogen, was stirred and heated under reflux for 2 hr. A further portion of the acetal (1.63 g) was added, and refluxing continued for a further 3.5 hr. The cooled solution was introduced directly into a column of silica gel and the product purified by flash chromatography, eluting with 7:3 ethyl acetate:hexane, to give methyl E-4-[5-[4-(dimethylamino)-4-oxobut-1-enyl]-1-propylindol-3-ylmethyl]-3-methoxybenzoate (0.71 g, 40%) as an off-white solid: mp 122.5°-123.5°; partial NMR (300 MHz, DMSO-d6): 0.81(t, 3H, CH2CH3), 1.75(m, 2H, CH2CH3), 2.83(s, 3H, NCH3), 3.01(s, 3H, NCH3), 3.24(d, 2H, --COCH2CH=), 3.83(s, 3H, OCH3), 3.92(s, 3H, OCH3), 4.05(s, 4H, ArCH2Ar', NCH2CH2), 6.15(d of t, 1H, CH2CH=CH), 6.45(d, 1H, CH2CH=CH).

reactant | methyl 4-[5-(1-hydroxyallyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | OC(C=C)C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C24H27NO4
reactant | N,N-dimethylformamide di-tert-butylacetal | 1.63 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl E-4-[5-[4-(dimethylamino)-4-oxobut-1-enyl]-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 0.71 g, 40% | CN(C(C/C=C/C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC)=O)C | C27H32N2O4
